US06117901
Synthesis of N-[(3-nitrophenyl)acetyl]methionine ethyl ester
Following General Procedure G above and using 3-nitrophenylacetic acid (Aldrich) and methionine ethyl ester hydrochloride (Aldrich), the title compound was prepared. The reaction was monitored by tlc on silica gel and purification was by recrystallization from butyl chloride.

reactant | 3-nitrophenylacetic acid | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)O | C8H7NO4
reactant | methionine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](N)CCSC)=O
product | N-[(3-nitrophenyl)acetyl]methionine ethyl ester | C(C)OC([C@@H](NC(CC1=CC(=CC=C1)[N+](=O)[O-])=O)CCSC)=O | C15H20N2O5S
